US05716984
(1RS, 2SR, 3SR)-1-(3-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid
Ethyl (1RS)-1-Hydroxy-1-(3-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate. To a solution of ethyl 3-(3,4-methylenedioxyphenyl)-1-oxoindene-2-carboxylate (100 mg, 0.31 mmol) in THF (2 ml) under an argon atmosphere at 0° C. was added a solution of freshly prepared 3-methoxyphenyl magnesium bromide (0.31 mmol). After stirring for 15 min, additional 3-methoxyphenyl magnesium bromide (0.06 mmol) was added. Stirring was continued for 45 min, at which time thin layer chromatographic analysis indicated that the reaction was incomplete. Additional 3-methoxyphenyl magnesium bromide (0.12 mmol) was added. After stirring for 2 h more, the mixture was partitioned between 3M HCl and EtOAc. The organic extract was washed successively with H2O, 5% aqueous NaHCO3, H2O and saturated aqueous NaCl. The solvent was removed in vacuo, and the residue was purified by flash chromatography, eluting with 15% EtOAc/hexanes to afford the title compound (150 mg, 100%).

reactant | Ethyl (1RS)-1-Hydroxy-1-(3-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indene-2-carboxylate | OC1(C(=C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC)C2=CC(=CC=C2)OC | C26H22O6
reactant | ethyl 3-(3,4-methylenedioxyphenyl)-1-oxoindene-2-carboxylate | 0.31 mmol, 100 mg | C1OC=2C=C(C=CC2O1)C1=C(C(C2=CC=CC=C12)=O)C(=O)OCC | C19H14O5
reactant | 3-methoxyphenyl magnesium bromide | 0.31 mmol | COC=1C=C(C=CC1)[Mg]Br
reactant | 3-methoxyphenyl magnesium bromide | 0.06 mmol | COC=1C=C(C=CC1)[Mg]Br
reactant | 3-methoxyphenyl magnesium bromide | 0.12 mmol | COC=1C=C(C=CC1)[Mg]Br
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(3-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid | 150 mg, 100% | COC=1C=C(C=CC1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)O | C24H20O5
